US03942987
The 5-hydroxy-8-(2-methylsulfonyl-4-nitrophenylazo)-2-naphthalenesulfonyl chloride was prepared from the sodium salt of the acid with chlorosulfonic acid; 3.55 g. (0.0075 mol) of sodium 5-hydroxy-8-(2-methylsulfonyl-4-nitrophenylazo)-2-napthalenesulfonate in 35 ml. of chlorosulfonic acid was heated at 60°C. for one hour. The solution was cooled and poured onto ice. The solid was collected on a filter funnel and dried in a vaccum desiccator to yield 2.8 g. (80 percent) of the product which contained a small amount of starting material.

reactant | sodium | [Na] | Na
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | sodium 5-hydroxy-8-(2-methylsulfonyl-4-nitrophenylazo)-2-napthalenesulfonate | 0.0075 mol | OC1=C2C=CC(=CC2=C(C=C1)N=NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)S(=O)(=O)[O-].[Na+]
product | 5-hydroxy-8-(2-methylsulfonyl-4-nitrophenylazo)-2-naphthalenesulfonyl chloride | OC1=C2C=CC(=CC2=C(C=C1)N=NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)S(=O)(=O)Cl | C17H12ClN3O7S2
